US08357717B2
Stage (ii): 2-(1-(4-Methoxy-2,6-dimethylphenylsulfonyl)-1,2,3,4-tetrahydroquinolin-7-yl)-1-(2,8-diazaspiro[4.5]decan-8-yl)ethanone hydrochloride
Hydrogen chloride (1.25 M solution in methanol, 6.5 ml) was added at room temperature to a solution of tert-butyl 8-(2-(1-(4-methoxy-2,6-dimethylphenylsulfonyl)-1,2,3,4-tetrahydroquinolin-7-yl)acetyl)-2,8-diazaspiro[4.5]decane-2-carboxylate (0.5 g, 0.817 mmol) in methanol (5 ml), and the reaction mixture was refluxed for 1 h. The solvent was removed in vacuo and the residue was taken up in a small amount of acetone and added dropwise to cooled diethyl ether. Stirring was then carried out for 30 min. in an ice bath, and the resulting solid was filtered out and dried. Yield: 0.32 g (71%)

reactant | Hydrogen chloride | 1.25 M, 6.5 ml | Cl | ClH
reactant | tert-butyl 8-(2-(1-(4-methoxy-2,6-dimethylphenylsulfonyl)-1,2,3,4-tetrahydroquinolin-7-yl)acetyl)-2,8-diazaspiro[4.5]decane-2-carboxylate | 0.817 mmol, 0.5 g | COC1=CC(=C(C(=C1)C)S(=O)(=O)N1CCCC2=CC=C(C=C12)CC(=O)N1CCC2(CCN(C2)C(=O)OC(C)(C)C)CC1)C | C33H45N3O6S
solvent | methanol | 5 ml | CO | CH4O
product | 2-(1-(4-Methoxy-2,6-dimethylphenylsulfonyl)-1,2,3,4-tetrahydroquinolin-7-yl)-1-(2,8-diazaspiro[4.5]decan-8-yl)ethanone hydrochloride | Cl.COC1=CC(=C(C(=C1)C)S(=O)(=O)N1CCCC2=CC=C(C=C12)CC(=O)N1CCC2(CCNC2)CC1)C | InChI=1S/C28H37N3O4S.ClH/c1-20-15-24(35-3)16-21(2)27(20)36(33,34)31-12-4-5-23-7-6-22(17-25(23)31)18-26(32)30-13-9-28(10-14-30)8-11-29-19-28;/h6-7,15-17,29H,4-5,8-14,18-19H2,1-3H3;1H
